US05972975
By analogy to Example 71, Step A, the anion of 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine was alkylated with (S)-1-(2-bromo-1-methylethyl)-2,5-dimethylpyrrole to give (S)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(3-(2,5-dimethylpyrrol-1-yl)-3-methylpropyl)pyridine.

reactant | 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | CC1=CC(=NC(=C1)C)N1C(=CC=C1C)C | C13H16N2
reactant | (S)-1-(2-bromo-1-methylethyl)-2,5-dimethylpyrrole | BrC[C@H](C)N1C(=CC=C1C)C | C9H14BrN
product | (S)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(3-(2,5-dimethylpyrrol-1-yl)-3-methylpropyl)pyridine | CC1=CC(=NC(=C1)CC[C@H](C)N1C(=CC=C1C)C)N1C(=CC=C1C)C | C22H29N3
